US07906649B2
Step A: 2-(Methylthio)-6-trityl-6,7-dihydro-5H-pyrrolo[3,4-d]pyrimidine
To a solution of 4.83 g (12.63 mmol) of 4-[(dimethylamino)methylene]-1-tritylpyrrolidin-3-one in anhydrous ethanol (50 mL) was added sodium ethoxide (11.8 mL, 21% in ethanol). After stirring for 5 min, 3.51 g (25.25 mmol) of 2-methyl-2-thiopseudourea sulfate was aided and the reaction mixture heated at reflux temperature for 1 h. The mixture was cooled to ambient temperature and 3.51 g (25.25 mmol) of 2-methyl-2-thiopseudourea sulfate was added followed by 11.8 mL (21% in ethanol) of sodium ethoxide. The reaction mixture was refluxed for 1 h and cooled to ambient temperature. This process was repeated two additional times at which point the reaction mixture was evaporated in vacuo, diluted with 200 mL of a 1:1 mixture of ethyl acetate and saturated aqueous brine. The layers were separated and the aqueous phase extracted with three 100-mL portions of ethyl acetate. The combined organic phase was dried over magnesium sulfate, filtered and evaporated in vacuo. The resulting residue was chromatographed on a Biotage® system (silica gel, 0 to 25% ethyl acetate/hexanes gradient) to yield the title compound as a white solid. LC/MS=410.3 (M+1).

reactant | 4-[(dimethylamino)methylene]-1-tritylpyrrolidin-3-one | 12.63 mmol, 4.83 g | CN(C)C=C1C(CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C26H26N2O
reactant | sodium ethoxide | 11.8 mL | [O-]CC.[Na+]
reactant | 2-methyl-2-thiopseudourea sulfate | 25.25 mmol, 3.51 g | S(=O)(=O)(O)O.CSC(N)=N
reactant | 2-methyl-2-thiopseudourea sulfate | 25.25 mmol, 3.51 g | S(=O)(=O)(O)O.CSC(N)=N
reactant | sodium ethoxide | 11.8 mL | [O-]CC.[Na+]
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 2-(Methylthio)-6-trityl-6,7-dihydro-5H-pyrrolo[3,4-d]pyrimidine | CSC=1N=CC2=C(N1)CN(C2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C26H23N3S
